US05622976
A mixture of 4-nitrobenzamide oxime (4 g) and ethyl chlorooxoacetate (3.01 g) in dioxane (200 ml) was refluxed for 1 hour, and then borontrifluoride (1 ml) was added thereto. The whole mixture was refluxed for 12 hours. After being cooled to room temperature, the solvent was evaporated in vacuo. The residue was diluted with ethyl acetate (100 ml), washed with a saturated potassium carbonate aqueous solution, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel with a mixture of dichloromethane and hexane (1:1) as eluent. The fractions containing the object product were collected and evaporated in vacuo to afford 5-ethoxycarbonyl-3-(4-nitrophenyl)-1,2,4-oxadiazole.

reactant | 4-nitrobenzamide oxime | 4 g | [N+](=O)([O-])C1=CC=C(C(N)=NO)C=C1 | C7H7N3O3
reactant | ethyl chlorooxoacetate | 3.01 g | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | borontrifluoride | 1 ml | B(F)(F)F | BF3
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 5-ethoxycarbonyl-3-(4-nitrophenyl)-1,2,4-oxadiazole | C(C)OC(=O)C1=NC(=NO1)C1=CC=C(C=C1)[N+](=O)[O-] | C11H9N3O5
